US07285558B2
(a) 4-{[5-methyl-2-(1-naphthylmethyl)-4,6-dioxo-3-pyridin-4-yl-2,4,5,6-tetrahydro-7H-pyrazolo[3,4-d]pyrimidin-7-yl]methyl}phenyl acetate
This compound was synthesized by the reaction of 5-methyl-2-(1-naphthylmethyl)-3-pyridin-4-yl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione and 4-(chloromethyl)phenyl acetate using potassium carbonate as a base in DMF at 80° C.

reactant | 5-methyl-2-(1-naphthylmethyl)-3-pyridin-4-yl-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | CN1C(NC=2C(C1=O)=C(N(N2)CC2=CC=CC1=CC=CC=C21)C2=CC=NC=C2)=O | C22H17N5O2
reactant | 4-(chloromethyl)phenyl acetate | C(C)(=O)OC1=CC=C(C=C1)CCl | C9H9ClO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | CN(C)C=O | C3H7NO
product | 4-{[5-methyl-2-(1-naphthylmethyl)-4,6-dioxo-3-pyridin-4-yl-2,4,5,6-tetrahydro-7H-pyrazolo[3,4-d]pyrimidin-7-yl]methyl}phenyl acetate | C(C)(=O)OC1=CC=C(C=C1)CN1C(N(C(C=2C1=NN(C2C2=CC=NC=C2)CC2=CC=CC1=CC=CC=C21)=O)C)=O | C31H25N5O4
